US07820665B2
Step C. 2-(3-chloro-6-(tosylimino)pyridazin-1(6H)-yl)acetamide
N,N-Diisopropylethylamine (10.4 mL, 81 mmol) was added to a suspension of N-(6-chloropyridazin-3-yl)-4-methylbenzenesulfonamide (21 g, 74 mmol) in dry DMF (100 mL) under argon. To the resulting solution was added 2-iodoacetamide (15 g, 81 mmol, Aldrich, St. Louis, Mo.) and the mixture was stirred for 24 h at rt. The reaction mixture was diluted with water and precipitated solid was filtered off to afford the title compound (17 g, 68%). 1H NMR (DMSO-d6, 300 MHz): δ 2.4 (s, 3H), 4.8 (s, 2H), 7.3 (d, 2H), 7.6-7.8 (m, 4H), 7.95 (d, 1H).

reactant | N,N-Diisopropylethylamine | 81 mmol, 10.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(6-chloropyridazin-3-yl)-4-methylbenzenesulfonamide | 74 mmol, 21 g | ClC1=CC=C(N=N1)NS(=O)(=O)C1=CC=C(C=C1)C | C11H10ClN3O2S
reactant | 2-iodoacetamide | 81 mmol, 15 g | ICC(=O)N | C2H4INO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(3-chloro-6-(tosylimino)pyridazin-1(6H)-yl)acetamide | 17 g, 68% | ClC1=NN(C(C=C1)=NS(=O)(=O)C1=CC=C(C)C=C1)CC(=O)N | C13H13ClN4O3S
